US04008287
In a flask provided with a one-blade paddle mixer, a mixture of 1.64 grams of cyclohexene, 23.7 grams of chloroform, 20 milliliters of 50%w aqueous sodium hydroxide, 5 milliliters of dichloromethane, 1 milliliter of n-octane (to serve as a GLC marker) and 0.010 gram of the catalyst indicated in Table I was stirred vigorously at 40° C. Samples were taken after stirring had been started at the times indicated in Table I. Table I presents the yields of 7,7-dichloronorcarane. The selectivity to the latter compound was 100% in all cases. A dash indicates that no analysis was effected.

reactant | cyclohexene | 1.64 grams | C1=CCCCC1 | C6H10
reactant | chloroform | 23.7 grams | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 20 milliliters | [OH-].[Na+]
reactant | n-octane | 1 milliliter | CCCCCCCC | C8H18
solvent | dichloromethane | 5 milliliters | ClCCl | CH2Cl2
product | 7,7-dichloronorcarane | ClC1(C2CCCCC21)Cl | C7H10Cl2
